US04731368
Step E: Preparation of 6-Methoxythieno[3,2-b]pyridine
To a solution of 6-hydroxythieno[3,2-b]pyridine (2.45 g, 16.2 mmol) in dry dimethylsulfoxide (15 ml), under a nitrogen atmosphere, was added 60% sodium hydride in mineral oil (0.75 g, 19 mmol) and let stir at room temperature for 1 hour. Methyl iodide (1.25 ml, 21 mmol) was added to this solution and it was stirred for an additional two hours. The solution was poured into ice/water and extracted with diethyl ether, washed with water, dried over anhydrous sodium sulfate, filtered and carefully evaporated to give an oily product (2.1 g, 78% yield) which was used as is.

reactant | 6-hydroxythieno[3,2-b]pyridine | 16.2 mmol, 2.45 g | OC=1C=C2C(=NC1)C=CS2 | C7H5NOS
reactant | sodium hydride | [H-].[Na+]
reactant | Methyl iodide | 21 mmol, 1.25 ml | CI | CH3I
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 6-Methoxythieno[3,2-b]pyridine | 2.1 g, 78% yield | COC=1C=C2C(=NC1)C=CS2 | C8H7NOS
